US08426411B2
To a solution of N-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide (0.396 g, 1.06 mmol, prepared as detailed in WO2009152133) in DMF (20 mL) was added KOH (0.190 g, 3.38 mmol). The mixture was stirred at rt for 5 min. Iodine (0.268 g, 1.058 mmol) was added in small portions and the reaction mixture was stirred at rt for 30 min. The mixture was added dropwise into a saturated aqueous ammonium chloride (200 mL). The precipitate was collected by filtration, washed with water, and dried to give N-((1S,3R,4S)-3-ethyl-4-(8-iodo-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide (0.494 g, 93%) as an off-white solid: LC/MS (Table 1, Method a) Rt=1.83 min; MS m/z 501 (M+H)+.

reactant | N-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide | 1.06 mmol, 0.396 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)NC=C1)NS(=O)(=O)C1CC1 | C17H22N6O2S
reactant | KOH | 3.38 mmol, 0.190 g | [OH-].[K+]
reactant | Iodine | 1.058 mmol, 0.268 g | II | I2
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-((1S,3R,4S)-3-ethyl-4-(8-iodo-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide | 0.494 g, 93% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)NC=C1I)NS(=O)(=O)C1CC1 | C17H21IN6O2S
